US07211573B2
To 17.1 g (48.5 mmol) racemic (2R,3S and 2S,3R)-3-cyclopropyl-2-dibenzylamino-3-hydroxy-propionic acid ethyl ester in 446 ml tetrahydrofurane were added 8.22 g (194 mmol) lithium hydroxide monohydrate dissolved in 74 ml water. The mixture was stirred at 60° C. overnight. The organic solvent was removed by distillation. Sodium dihydrogenphosphate was added followed by extraction with ethyl acetate. Chromatography on silicagel with diethylether/heptane (1:1 to 1:0) yielded 9.03 g (57%) racemic (2R,3S and 2S,3R)-3-cyclopropyl-2-dibenzylamino-3-hydroxy-propionic acid, MS m/e (%): 326.1 (M+H+, 100).

reactant | 3-cyclopropyl-2-dibenzylamino-3-hydroxy-propionic acid ethyl ester | C(C)OC(C(C(O)C1CC1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C22H27NO3
reactant | lithium hydroxide monohydrate | 194 mmol, 8.22 g | O.[OH-].[Li+]
solvent | tetrahydrofurane | 446 ml | O1CCCC1 | C4H8O
solvent | water | 74 ml | O | H2O
product | 3-cyclopropyl-2-dibenzylamino-3-hydroxy-propionic acid | C1(CC1)C(C(C(=O)O)N(CC1=CC=CC=C1)CC1=CC=CC=C1)O | C20H23NO3
